US07109354B2
b) 4-Bromo-5-methyl-3-nitrobenzoic acid
4-Bromo-5-methyl-3-nitrobenzoic acid methyl ester ((Example 294: step a (11.6 g, 42.3 mmol) was dissolved in MeOH (400 mL) at rt and 2N NaOH (43 mL) was added dropwise over 30 min via addition funnel. The solution was stirred for 12 hr during which, precipitate appeared, and sm disappeared (TLC shows only baseline spot in 30% EtOAc). The pH was adjusted to ˜2 with conc HCl and the methanol was removed in vacuo. EtOAc (300 mL) was added to the aqueous slurry and the layers were separated. The aqueous layer was extracted with EtOAc (2×50 mL) and then discarded. TLC analysis of the combined organic extracts showed two products (40% EtOAc in Hexanes, 4% AcOH). The combined organic extracts were washed with a 3:1 solution of 0.5N NaH2PO4/0.5N NaOAc (˜30×50 mL portions) until removal of the o-nitrobenzoic acid (lower spot on TLC, 40% EtOAc in Hex, 4% AcOH) was complete. The organic layer was then washed with brine and dried over sodium sulfate. Concentration of the solution yielded 5.4 g (47%) of a white solid. 1H NMR (CD3OD) δ 8.10 (m, 2H), 2.54 (s, 3H).

reactant | 4-Bromo-5-methyl-3-nitrobenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)C)Br)[N+](=O)[O-])=O | C9H8BrNO4
reactant | NaOH | 2N, 43 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 400 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Bromo-5-methyl-3-nitrobenzoic acid | 5.4 g, 47% | BrC1=C(C=C(C(=O)O)C=C1C)[N+](=O)[O-] | C8H6BrNO4
